US08383629B2
tert-butyl 1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)-1H-spiro[isoquinoline-4,4′-piperidine]-2(3H)-carboxylate
The title compound was prepared following a procedure analogous to that described in Example 1 using 3-(2-(trifluoromethyl)phenyl)propanoic acid and tert-butyl 1H-spiro[isoquinoline-4,4′-piperidine]-2(3H)-carboxylate. LC-MS Method 1 tR=2.18, min, m/z=503

reactant | 3-(2-(trifluoromethyl)phenyl)propanoic acid | FC(C1=C(C=CC=C1)CCC(=O)O)(F)F | C10H9F3O2
reactant | tert-butyl 1H-spiro[isoquinoline-4,4′-piperidine]-2(3H)-carboxylate | N1CCC2(CC1)CN(CC1=CC=CC=C12)C(=O)OC(C)(C)C | C18H26N2O2
product | tert-butyl 1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)-1H-spiro[isoquinoline-4,4′-piperidine]-2(3H)-carboxylate | FC(C1=C(C=CC=C1)CCC(=O)N1CCC2(CC1)CN(CC1=CC=CC=C12)C(=O)OC(C)(C)C)(F)F | C28H33F3N2O3
